* CI28204
* Knowles, 2014
* For beta testing only. Full release models coming soon.
* This model represents the best fit to performance as
* measured on a sampling of devices.  It does not necessarily
* exactly match design intent or nominal performance. 
.subckt CI28204 p1 n1 p2 n2
Cback N0010 N0005 8.e-13
Ceff N0035 N0030 6.56e-13
Cfront N0010 n2 8.72e-14
Cgap N0025 n2 2.76e-13
Cmech2 N0035 n2 1.48e-13
G1_1 N0020 n1 N0015 n2 {-1*-3.e-6}
G1_2 N0015 n2 N0020 n1 -3.e-6
Leff N0025 N0030 22600.
Lmech2 N0035 N0005 5380.
Lport N0040 p2 2130.
Rdc p1 N0020 96.7
Rpierce N0005 n2 4.79e9
Rport N0040 N0010 3.88e7
GKarm N0025 N0015 laplace {V(N0025,N0015)}={1.27e-10*sqrt(s)}
Ropen01 N0005 0 1.e15
Ropen02 N0010 0 1.e15
Ropen03 N0030 0 1.e15
Ropen04 N0020 0 1.e15
Ropen05 n1 0 1.e15
Ropen06 N0015 0 1.e15
.ends
*