* ED30849
* Knowles, 2014
* For beta testing only. Full release models coming soon.
* This model represents the best fit to performance as
* measured on a sampling of devices.  It does not necessarily
* exactly match design intent or nominal performance. 
.subckt ED30849 p1 n1 p2 n2
Cback N0010 N0005 3.07e-13
Ceff N0035 N0030 7.97e-14
Cfront N0010 n2 4.73e-14
Cgap N0025 n2 1.16e-13
Cmech2 N0035 n2 3.05e-14
G1_1 N0020 n1 N0015 n2 {-1*1.34e-6}
G1_2 N0015 n2 N0020 n1 1.34e-6
Leff N0025 N0030 47900.
Lmech2 N0035 N0005 6960.
Lport N0040 p2 6880.
Rdc p1 N0020 193.
Rpierce N0005 n2 1.31e10
Rport N0040 N0010 1.8e8
GKarm N0025 N0015 laplace {V(N0025,N0015)}={6.12e-11*sqrt(s)}
Ropen01 N0005 0 1.e15
Ropen02 N0010 0 1.e15
Ropen03 N0030 0 1.e15
Ropen04 N0020 0 1.e15
Ropen05 n1 0 1.e15
Ropen06 N0015 0 1.e15
.ends
*