* GD31223
* Knowles, 2014
* For beta testing only. Full release models coming soon.
* This model represents the best fit to performance as
* measured on a sampling of devices.  It does not necessarily
* exactly match design intent or nominal performance. 
.subckt GD31223 p1 n1 p2 n2
CRec1_Cback N0005 N0050 7.38e-14
CRec1_Ceff N0050 N0045 5.53e-14
CRec1_Cgap N0040 n2 6.34e-14
GRec1_G1_1 N0065 N0035 N0030 n2 {-1*-3.69e-6}
GRec1_G1_2 N0030 n2 N0065 N0035 -3.69e-6
LRec1_Leff N0040 N0045 81500.
Rec1_Rdc p1 N0065 52.5
Rec1_Rpierce N0050 n2 1.77e10
GRec1_Karm N0040 N0030 laplace {V(N0040,N0030)}={2.8e-11*sqrt(s)}
CRec2_Cback N0005 N0025 7.38e-14
CRec2_Ceff N0025 N0020 5.53e-14
CRec2_Cgap N0015 n2 6.34e-14
GRec2_G1_1 N0060 n1 N0010 n2 {-1*-3.69e-6}
GRec2_G1_2 N0010 n2 N0060 n1 -3.69e-6
LRec2_Leff N0015 N0020 81500.
Rec2_Rdc N0035 N0060 52.5
Rec2_Rpierce N0025 n2 1.77e10
GRec2_Karm N0015 N0010 laplace {V(N0015,N0010)}={2.8e-11*sqrt(s)}
Cfront N0005 n2 4.61e-14
Rport N0005 N0055 8.68e7
Lport N0055 p2 9650.
Ropen01 n2 0 1.e15
Ropen02 N0005 0 1.e15
Ropen03 N0020 0 1.e15
Ropen04 N0045 0 1.e15
Ropen05 N0035 0 1.e15
Ropen06 p1 0 1.e15
Ropen07 N0030 0 1.e15
Ropen08 N0010 0 1.e15
Ropen09 n1 0 1.e15
.ends
*