* GR31459
* Knowles, 2014
* For beta testing only. Full release models coming soon.
* This model represents the best fit to performance as
* measured on a sampling of devices.  It does not necessarily
* exactly match design intent or nominal performance. 
.subckt GR31459 p1 n1 p2 n2
CRec1_Cback N0005 N0060 1.19e-13
CRec1_Ceff N0055 N0050 2.04e-13
CRec1_Cgap N0045 n2 1.11e-13
CRec1_Cmech2 N0055 n2 2.81e-14
GRec1_G1_1 N0075 N0040 N0035 n2 {-1*5.54e-6}
GRec1_G1_2 N0035 n2 N0075 N0040 5.54e-6
LRec1_Leff N0045 N0050 44800.
LRec1_Lmech2 N0055 N0060 6160.
Rec1_Rdc p1 N0075 20.3
Rec1_Rpierce N0060 n2 1.19e10
GRec1_Karm N0045 N0035 laplace {V(N0045,N0035)}={4.19e-11*sqrt(s)}
CRec2_Cback N0005 N0030 1.19e-13
CRec2_Ceff N0025 N0020 2.04e-13
CRec2_Cgap N0015 n2 1.11e-13
CRec2_Cmech2 N0025 n2 2.81e-14
GRec2_G1_1 N0070 n1 N0010 n2 {-1*5.54e-6}
GRec2_G1_2 N0010 n2 N0070 n1 5.54e-6
LRec2_Leff N0015 N0020 44800.
LRec2_Lmech2 N0025 N0030 6160.
Rec2_Rdc N0040 N0070 20.3
Rec2_Rpierce N0030 n2 1.19e10
GRec2_Karm N0015 N0010 laplace {V(N0015,N0010)}={4.19e-11*sqrt(s)}
Cfront N0005 n2 4.9e-14
Rport N0005 N0065 3.23e7
Lport N0065 p2 2210.
Ropen01 n2 0 1.e15
Ropen02 N0005 0 1.e15
Ropen03 N0020 0 1.e15
Ropen04 N0050 0 1.e15
Ropen05 N0040 0 1.e15
Ropen06 p1 0 1.e15
Ropen07 N0035 0 1.e15
Ropen08 N0010 0 1.e15
Ropen09 n1 0 1.e15
.ends
*